US04892953
2-(4-Phenylethynylphenyl)benzthiazole.
To a solution containing 2-(4-bromophenyl)benzthiazole (43.5 g 0.15 mol) and phenylacetylene (20 g, 0.19 mol) in 0.8 L of triethylamine was added the catalyst system consisting of dichlorobis-(triphenylphosphine)palladiumII (1 g), triphenylphosphine (0.3 g) and cuprous iodide (0.1 g). The reaction mixture was refluxed under a nitrogen atmosphere for 19 h. After cooling to 25° C., the reaction mixture was filtered and the filtrate poured into 3 L of water. The resulting light gray solid was isolated by filtration and dried in an oven at 110° C. Recrystallization from heptane using activated charcoal gave 37 g (78.9%) of a white crystalline product: m.p. 172°-173° C.

reactant | 2-(4-bromophenyl)benzthiazole | 0.15 mol, 43.5 g | BrC1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2 | C13H8BrNS
reactant | phenylacetylene | 0.19 mol, 20 g | C1(=CC=CC=C1)C#C | C8H6
solvent | triethylamine | 0.8 L | C(C)N(CC)CC | C6H15N
catalyst | triphenylphosphine | 0.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 2-(4-Phenylethynylphenyl)benzthiazole | 37 g, 78.9% | C1(=CC=CC=C1)C#CC1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2 | C21H13NS
